US08232288B2
Stage (iii): Methyl 2-((methylamino)methyl)-1H-benzo[d]imidazole-7-carboxylate
TFA (15 ml) was added to a cooled solution (0° C.) of methyl 2-((tert-butoxy-carbonyl(methyl)amino)methyl)-1H-benzo[d]imidazole-4-carboxylate (12.54 mmol) in methylene chloride (60 ml) and the reaction mixture was stirred at room temperature for 2 h. The solvent was evaporated off completely, in vacuo, and the residue was co-distilled 2× with methylene chloride and employed in the next stage.

reactant | TFA | 15 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methyl 2-((tert-butoxy-carbonyl(methyl)amino)methyl)-1H-benzo[d]imidazole-4-carboxylate | 12.54 mmol | C(C)(C)(C)ON(C=C=O)CC1=NC2=C(N1)C=CC=C2C(=O)OC | C16H19N3O4
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-((methylamino)methyl)-1H-benzo[d]imidazole-7-carboxylate | CNCC1=NC2=C(N1)C(=CC=C2)C(=O)OC | C11H13N3O2
